US04412999
A solution of 1.24 g of (-)-ethyl 5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylate and 4.12 ml of 2 N potassium hydroxide in 55 ml of methanol was stirred at room temperature for seven days. The methanol was removed by evaporation at 25°. The residue was dissolved in water and extracted with 50 ml of ether. The clear, colorless aqueous phase was acidified with glacial acetic acid. The white precipitate that formed was removed by filtration, and washed thoroughly with water. After drying at 100° in vacuo, 1.08 g of (-)-5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylic acid was obtained, m.p. 300°-305°; [α]58925 -180°; [α]57825 -194°; [α]54625 -239°; [α]43625 -675°; (c=0.004968 g/ml 0.10 NHCl). Rf : 0.70 (fluorescent silica gel, n-butanol/acetic acid/water (5:2:3).

reactant | (-)-ethyl 5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylate | 1.24 g | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)C(=O)OCC)C=CC=C2 | C24H25NO2
reactant | potassium hydroxide | 2 N, 4.12 ml | [OH-].[K+]
solvent | methanol | 55 ml | CO | CH4O
product | (-)-5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylic acid | 1.08 g | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)C(=O)O)C=CC=C2 | C22H21NO2
